US06127386
185a. 5-Allyl-3-(1-BOC-2-(R)-pyrrolidinylmethoxy)-6-chloropyridine
3-(1-BOC-2-(R)-pyrrolidinylmethoxy)-5-bromo-6-chloropyridine (1.0 g, 2.57 mmol) in toluene (10 mL) was added tetrakis(triphenylphosphine)palladium (15 mg) and allyltributyltin (1.6 mL, 5.1 mmol). The mixture was stirred and refluxed for 16 h. Solvent was evaporated and the residue was chromatographed (silica gel; hexane/EtOAc, 5:1 to 1:1) to afford an oil (660 mg, 73%): 1H NMR (CDCl3, 300 MHz) δ 1.24-1.40 (m, 2H), 1.46 (s, 9H), 1.62 (m, 1H), 1.88 (m, 1H), 2.02 (m, 1H), 3.38 (m, 1H), 3.45 (d, 2H, J=7.0 Hz), 3.90 (m, 1H), 4.16 (m, 2H), 5.10-5.20 (m, 2H), 5.94 (m, 1H), 7.14 (m, 1H), 7.96 (d, 1H, J=3.0 Hz); MS (CI/NH3) m/z 352 (M+H)+.

reactant | 3-(1-BOC-2-(R)-pyrrolidinylmethoxy)-5-bromo-6-chloropyridine | 2.57 mmol, 1.0 g | C(=O)(OC(C)(C)C)N1[C@H](CCC1)COC=1C=NC(=C(C1)Br)Cl | C15H20BrClN2O3
reactant | allyltributyltin | 5.1 mmol, 1.6 mL | C(C=C)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium | 15 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Allyl-3-(1-BOC-2-(R)-pyrrolidinylmethoxy)-6-chloropyridine | 660 mg, 73% | C(C=C)C=1C=C(C=NC1Cl)OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C18H25ClN2O3
